US05665748
To a mixture of (E)-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylidenepyruvic acid (1.3 g) and ethanol (50 ml) was added conc. sulfuric acid (0.1 ml). The mixture was heated for 8 hours under reflux, then the reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), followed by distilling off the solvent. The residue was subjected to a silica gel column chromatography. From the fractions eluted with ethyl acetate--hexane (1:3, v/v), ethyl (E)-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylidenepyruvate (1,2 g, 86%) was obtained. Recrystallization from ethyl acetate--hexane gave pale yellow prisms. Melting point: 110°-111° C.

reactant | (E)-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylidenepyruvic acid | 1.3 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(\C=C\C(C(=O)O)=O)C=C1 | C21H17NO5
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | ethyl (E)-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzylidenepyruvate | 1,2 g, 86% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(\C=C\C(C(=O)OCC)=O)C=C1 | C23H21NO5
